US09029360B2
(6-Chloro-pyrazolo[1,5-a]pyrimidin-2-yl)-(4,5,7,8-tetrahydro-thiazolo[4,5-d]azepin-6-yl)-methanone
0.19 mL (0.33 mmol, 50%) propane phosphonic acid anhydride was added to 50.0 mg (0.25 mmol) 6-chloropyrazolo[1,5-A]pyrimidine-2-carboxylic acid, 39 mg (0.25 mmol) 5,6,7,8-tetrahydro-4H-thiazolo[4,5-d]azepine and 0.12 mL (0.89 mmol) TEA in 1.5 mL DMF and stirred at RT overnight. The reaction mixture was purified by chromatography and lyophilized. Yield: 17 mg (20% of theory). ESI-MS: m/z=334 (M+H)+, Rt(HPLC): 0.79 min (Method M).

reactant | 6-chloropyrazolo[1,5-A]pyrimidine-2-carboxylic acid | 0.25 mmol, 50.0 mg | ClC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4ClN3O2
reactant | 5,6,7,8-tetrahydro-4H-thiazolo[4,5-d]azepine | 0.25 mmol, 39 mg | S1C=NC=2CCNCCC21 | C7H10N2S
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | (6-Chloro-pyrazolo[1,5-a]pyrimidin-2-yl)-(4,5,7,8-tetrahydro-thiazolo[4,5-d]azepin-6-yl)-methanone | ClC=1C=NC=2N(C1)N=C(C2)C(=O)N2CCC1=C(CC2)SC=N1 | C14H12ClN5OS
